US08686048B2
Intermediate 41: 3-chloro-3′,5-difluoro-5′-methoxybiphenyl-4-amine
The title compound (71 mg) was prepared from 4-bromo-2-chloro-6-fluoroaniline (100 mg, 0.44 mmol) and 3-fluoro-5-methoxyphenylboronic acid (97 mg, 0.57 mmol) as a pale-yellow solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.51-7.45 (m, 2H), 7.05 (d, J 10.3, 1H), 7.00 (s, 1H), 6.73 (dd, J 2.1, 4.2, 1H), 5.60 (s, 2H), 3.81 (s, 3H).

reactant | 4-bromo-2-chloro-6-fluoroaniline | 0.44 mmol, 100 mg | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | 3-fluoro-5-methoxyphenylboronic acid | 0.57 mmol, 97 mg | FC=1C=C(C=C(C1)OC)B(O)O | C7H8BFO3
product | 3-chloro-3′,5-difluoro-5′-methoxybiphenyl-4-amine | 71 mg | ClC=1C=C(C=C(C1N)F)C1=CC(=CC(=C1)OC)F | C13H10ClF2NO
